US07279600B2
Trifluoro-methanesulfonic acid 4-formyl-3-methoxy-phenyl ester
The title compound was prepared by reacting 4-hydroxy-2-methoxybenzaldehyde (3 g, 19.7 mmol) with trifluoromethanesulfonic anhydride (4.3 mL, 7.2 g, 25.6 mmol) according to Method D to yield a brown syrup which was used in the next step without purification: 1H NMR: δ 3.97 (3H, s), 7.21 (1H, dd, J=8.64 Hz, J=2.17 Hz), 7.47 (1H, d, J=2.24 Hz), 7.87 (1H, d, J=8.64 Hz), 10.31 (1H, s).

reactant | 4-hydroxy-2-methoxybenzaldehyde | 19.7 mmol, 3 g | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | trifluoromethanesulfonic anhydride | 25.6 mmol, 4.3 mL, 7.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 4-formyl-3-methoxy-phenyl ester | C(=O)C1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)OC | C9H7F3O5S
